US04331678
To a stirred solution of 3-t-butylpyrazole-5-thione (2.0 g) in glyme (50 ml) was added sodium hydride (0.6 g) in small quantities, with cooling. After stirring the mixture briefly at room temperature, iodomethane (1.85 g, 0.9 ml) was added. The reaction mixture was stirred at room temperature, then the solvent evaporated in vacuo. The residue was extracted with ether and washed with water to give after evaporation, 3-t-butyl-5-(methylthio)pyrazole (0.8 g, 36% yield), of melting point 135°-6° (after recrystallisation from petrol). The product was identical, by nuclear magnetic resonance spectroscopy, to that of Example 2.

reactant | 3-t-butylpyrazole-5-thione | 2.0 g | C(C)(C)(C)C=1N=NC(C1)=S | C7H10N2S
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | iodomethane | 0.9 ml, 1.85 g | IC | CH3I
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
product | 3-t-butyl-5-(methylthio)pyrazole | 0.8 g, 36% yield | C(C)(C)(C)C1=NNC(=C1)SC | C8H14N2S
